US08492582B2
To a solution mixture of the obtained methyl 2-(5-(2-(4-acetylpiperazin-1-yl)ethoxy)-2-(benzyloxy)benzamido)-4-phenylbenzoate in ethyl acetate (1.5 mL) and methanol (1.5 mL), 10% palladium-carbon (0.15 g) was added, followed by stirring under a hydrogen atmosphere at room temperature for 1 hour and 30 minutes. Chloroform and methanol were added to the reaction mixture. The insoluble substance was removed by filtration, and the solvent was evaporated under reduced pressure. Diisopropyl ether was added to the obtained residue, and the solid substance was collected by filtration to obtain 0.083 g of methyl 2-(5-(2-(4-acetylpiperazin-1-yl)ethoxy)-2-hydroxybenzamido)-4-phenylbenzoate as a light yellow solid.

reactant | methyl 2-(5-(2-(4-acetylpiperazin-1-yl)ethoxy)-2-(benzyloxy)benzamido)-4-phenylbenzoate | C(C)(=O)N1CCN(CC1)CCOC=1C=CC(=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C1)OCC1=CC=CC=C1 | C36H37N3O6
reactant | Chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | 1.5 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 1.5 mL | CO | CH4O
catalyst | palladium-carbon | 0.15 g | [C].[Pd]
product | methyl 2-(5-(2-(4-acetylpiperazin-1-yl)ethoxy)-2-hydroxybenzamido)-4-phenylbenzoate | 0.083 g | C(C)(=O)N1CCN(CC1)CCOC=1C=CC(=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C1)O | C29H31N3O6
